US04548751
(C) (3S-trans)-2-[[3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-2-oxo-1-azetidinyl]oxy]-3-(phenylmethoxy)propanoic acid, diphenylmethyl ester
To a solution of (3S-trans)-[[(1,1-dimethylethoxy)carbonyl]amino]-4-methyl-1-hydroxy-2azetidinone (55 mg, 0.26 mmol) and (S)-2-bromo-3-(phenylmethoxy)propanoic acid, diphenylmethyl ester (110 mg, 0.26 mmol) in dimethylformamide (1 ml) was added potassium carbonate (100 mg, 1 mmol). The resulting slurry was stirred for three hours at room temperature, quenched with hydrochloric acid (1N, 10 ml) and extracted with ether (20 ml). The organic layer was washed twice with dilute hydrochloric acid (1N, 2×10 ml), with saturated sodium chloride solution (20 ml), dried over magnesium sulfate and evaporated at reduced pressure. Purification of the product by preparative thin layer chromatography afforded the title compound (108 mg) as a mixture of diastereomers.

reactant | (3S-trans)-[[(1,1-dimethylethoxy)carbonyl]amino]-4-methyl-1-hydroxy-2azetidinone | 0.26 mmol, 55 mg | CC(C)(OC(=O)N[C@@H]1C(N([C@H]1C)O)=O)C | C9H16N2O4
reactant | (S)-2-bromo-3-(phenylmethoxy)propanoic acid, diphenylmethyl ester | 0.26 mmol, 110 mg | Br[C@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=CC=CC=C1 | C23H21BrO3
reactant | potassium carbonate | 1 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (3S-trans)-2-[[3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-2-oxo-1-azetidinyl]oxy]-3-(phenylmethoxy)propanoic acid, diphenylmethyl ester | 108 mg | CC(C)(OC(=O)N[C@@H]1C(N([C@H]1C)OC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=CC=CC=C1)=O)C | C32H36N2O7
